US08217069B2
2-Carboxymethyl-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one
A mixture of 2,4-dichloro-6-methoxy-5-nitropyrimidine (0.24 g), 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline (0.26 g) and N,N-diisopropylethylamine (0.15 mL) in acetonitrile (4 mL) was stirred at room temperature overnight. To the reaction mixture were added ethyl acetate and water, and the resulting mixture was stirred at room temperature for 30 minutes. The insoluble material was removed by filtration, and the organic layer of the filtrate was separated. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1−1/2) to give 2-chloro-N-(2-chloro-6-methoxy-5-nitropyrimidin-4-yl)-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline (0.4 g). A mixture of 2-chloro-N-(2-chloro-6-methoxy-5-nitropyrimidin-4-yl)-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyaniline (0.29 g), diethyl malonate (0.1 mL) and cesium carbonate (1.83 g) in 1,2-dimethoxyethane (2 mL) was stirred at 100° C. in a reaction vessel equipped with a reflux condenser for 6 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1−1/1) to give diethyl 2-{-4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-methoxy-5-nitropyrimidin-2-yl}malonate (0.27 g). To this material were added tetrahydrofuran (6 mL); methanol (2 mL) and 10% platinum-carbon powder (50 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 4 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. To the residue was added ethyl acetate, and the mixture was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (5 mL). To the solution were added triphosgene (50 mg) and sodium hydride (55%, 64 mg) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/2−3/7) to give 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-bis(ethoxycarbonyl)methyl-6-methoxy-7,9-dihydro-8H-purin-8-one (0.2 g). The mixture of the obtained 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-bis(ethoxycarbonyl)methyl-6-methoxy-7,9-dihydro-8H-purin-8-one (80 mg), lithium hydroxide monohydrate (0.11 g), tetrahydrofuran (3 mL), methanol (1.5 mL) and water (1.5 mL) was stirred at room temperature overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give the title compound (67 mg).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-bis(ethoxycarbonyl)methyl-6-methoxy-7,9-dihydro-8H-purin-8-one | 80 mg | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)C(C(=O)OCC)C(=O)OCC | C28H27ClF2N4O9
reactant | lithium hydroxide monohydrate | 0.11 g | O.[OH-].[Li+]
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | water | 1.5 mL | O | H2O
solvent | methanol | 1.5 mL | CO | CH4O
product | 2-Carboxymethyl-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 67 mg | C(=O)(O)CC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O)OC | C23H19ClF2N4O7
